US04448962
A mixture of 1-ethyl-7-chloro-1,4-dihydro-6-fluoro-4-oxoquinoline-3-carboxylic acid (0.80 g), 2-oxopiperazine (3.0 g) and 4 ml pyridine was heated for 18 hours. The reaction mixture was evaporated under vacuum, an aqueous solution of caustic soda was added to adjust the pH to 10, ice cooled and the undissolved matter was collected and washed with a small amount of an aqueous solution of NaOH. The filtered product was suspended in water, acidified with acetic acid, filtered and washed. The product obtained was dissolved in an aqueous solution of NaOH and acidified with acetic acid. The precipitate was filtered, washed and dried to obtain 0.32 g (32%) of 1-ethyl-1,4-dihydro-6-fluoro-7-(3-oxo-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid.

reactant | 1-ethyl-7-chloro-1,4-dihydro-6-fluoro-4-oxoquinoline-3-carboxylic acid | 0.80 g | C(C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H9ClFNO3
reactant | 2-oxopiperazine | 3.0 g | O=C1NCCNC1 | C4H8N2O
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | NaOH | [OH-].[Na+]
product | 1-ethyl-1,4-dihydro-6-fluoro-7-(3-oxo-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid | 0.32 g, 32% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)=O)F)=O)C(=O)O | C16H16FN3O4
